US04594189
3-[3-(Trifluoromethyl)phenoxy]-1-azetidinecarboxamide.
A solution of 6 fold molar excess nitrourea and 3-[3-(trifluoromethyl)phenoxy]azetidine in a 50-50 vol. % mixture of methylene chloride and absolute ethyl alcohol is stirred at room temperature for 48 hr. The mixture is filtered. The filtrate is evaporated to dryness and the residue is partitioned between equal volumes of methylene chloride and water. The water layer is extracted 3 times with methylene chloride. The methylene chloride extracts are combined and evaporated to dryness. The residue is washed with a mixture of 1 vol. of methylene chloride to 20 volumes of toluene and filtered. The precipitate is recrystallized from ethanol/water to give pale yellow crystals. The crystals are triturated with a mixture of 2 volumes methylene chloride to 20 volumes of toluene for 2 hr. White crystals of title compound are obtained, m.p. 151°-152° C.

reactant | nitrourea | [N+](=O)([O-])NC(=O)N | CH3N3O3
reactant | 3-[3-(trifluoromethyl)phenoxy]azetidine | FC(C=1C=C(OC2CNC2)C=CC1)(F)F | C10H10F3NO
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl alcohol | C(C)O | C2H6O
product | 3-[3-(Trifluoromethyl)phenoxy]-1-azetidinecarboxamide | FC(C=1C=C(OC2CN(C2)C(=O)N)C=CC1)(F)F | C11H11F3N2O2
